US08084620B2
Step 2 A mixture of 1,3-dibromo-2-methylbenzene (0.147 mL, 1.064 mmol), 1-benzylimidazolidin-2-one (75 mg, 0.426 mmol), copper (I) iodide (8.11 mg, 0.043 mmol), (+/−)-trans-1,2-diaminocyclohexane (5.1 mL, 0.043 mmol) and tripotassium phosphate (181 mg, 0.851 mmol) in dioxane (2 mL) was sonicated while bubbling with argon for 1 min. The mixture was heated in a sealed tube at 120° C. After 18.25 h, the mixture was cooled to rt, diluted with EtOAc and filtered through Celite. The filtrate was concentrated and the residue was purified by column chromatography (eluting with a gradient from 20:80 EtOAc-hexane to EtOAc) to provide 1-benzyl-3-(3-bromo-2-methylphenyl)imidazolidin-2-one as a waxy white solid (36 mg, 25%). 1H NMR (400 MHz, chloroform-d) δ 7.49 (1H, dd, J=7.9, 0.9 Hz), 7.28-7.40 (5H, m), 7.19 (1H, dd, J=7.8, 1.0 Hz), 7.08 (1H, t, J=7.9 Hz), 4.46 (2H, s), 3.64 (2H, dd, J=8.8, 6.8 Hz), 3.37 (2H, dd, J=8.8, 7.0 Hz), 2.36 (3H, s). Mass spectrum m/z 346.8 (M+H)+.

reactant | 1,3-dibromo-2-methylbenzene | 1.064 mmol, 0.147 mL | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | 1-benzylimidazolidin-2-one | 0.426 mmol, 75 mg | C(C1=CC=CC=C1)N1C(NCC1)=O | C10H12N2O
reactant | (+/−)-trans-1,2-diaminocyclohexane | 0.043 mmol, 5.1 mL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | tripotassium phosphate | 0.851 mmol, 181 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.043 mmol, 8.11 mg | [Cu]I
product | 1-benzyl-3-(3-bromo-2-methylphenyl)imidazolidin-2-one | 36 mg, 25% | C(C1=CC=CC=C1)N1C(N(CC1)C1=C(C(=CC=C1)Br)C)=O | C17H17BrN2O
